US07592373B2
2.3.b. 5-bromo-1-chloroindane
3.09 mL (37.45 mmol) of thionyl chloride, dissolved in cooled dichloromethane, are added dropwise at −10° C. to a solution of 3.8 g (17.83 mmol) of 5-bromoindan-1-ol in 200 mL dichloromethane. The reaction mixture is allowed to come up slowly to ambient temperature and stirred for 14 hours at ambient temperature. Then ice and 100 mL of dilute sodium hydrogen carbonate solution are added successively. The organic phase is extracted twice with 50 mL of water. The combined organic phases are dried over magnesium sulfate, filtered and the solvent is distilled off. Yield: 3.7 g (90% of theory); C9H8BrCl (M=231.52); Rf value: 0.91 (silica gel, petroleum ether/ethyl acetate (6:4)).

reactant | thionyl chloride | 37.45 mmol, 3.09 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 5-bromoindan-1-ol | 17.83 mmol, 3.8 g | BrC=1C=C2CCC(C2=CC1)O | C9H9BrO
reactant | sodium hydrogen carbonate | 100 mL | C(O)([O-])=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 5-bromo-1-chloroindane | BrC=1C=C2CCC(C2=CC1)Cl | C9H8BrCl
